US07683056B2
2-[3,5-bis(trifluoromethyl)phenyl]-N-{6-fluoro-6′-[(7 S,9aS)-7-(hydroxymethyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-2-methyl-3,4′-bipyridin-3′-yl}-N,2-dimethylpropanamide hydrochloride (E44)
HCl salt made as described in example 41 starting from 2-[3,5-bis(trifluoromethyl)phenyl]-N-{6-fluoro-6′-[(7S,9aS)-7-(hydroxymethyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-2-methyl-3,4′-bipyridin-3′-yl}-N,2-dimethylpropanamide (E43, 11.3 mg)to afford an off white solid.

reactant | HCl | Cl | ClH
reactant | 2-[3,5-bis(trifluoromethyl)phenyl]-N-{6-fluoro-6′-[(7S,9aS)-7-(hydroxymethyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-2-methyl-3,4′-bipyridin-3′-yl}-N,2-dimethylpropanamide | 11.3 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C=1C(=NC(=CC1)F)C)N1C[C@H]2COCCN2C[C@H]1CO)(C)C)(F)F | C32H34F7N5O3
product | 2-[3,5-bis(trifluoromethyl)phenyl]-N-{6-fluoro-6′-[(7 S,9aS)-7-(hydroxymethyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-2-methyl-3,4′-bipyridin-3′-yl}-N,2-dimethylpropanamide hydrochloride | Cl.FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C=1C(=NC(=CC1)F)C)N1C[C@H]2COCCN2C[C@H]1CO)(C)C)(F)F | InChI=1S/C32H34F7N5O3.ClH/c1-18-24(5-6-27(33)41-18)25-12-28(44-15-23-17-47-8-7-43(23)14-22(44)16-45)40-13-26(25)42(4)29(46)30(2,3)19-9-20(31(34,35)36)11-21(10-19)32(37,38)39;/h5-6,9-13,22-23,45H,7-8,14-17H2,1-4H3;1H/t22-,23-;/m0./s1
